US04778796
Preparation of N-[3-(5-carboxy-2-pyridyl)acryloyl]-4-(4-diphenylmethyl-1-piperazinyl)butylamine
Trifluoroacetic acid (6 ml) is cooled to 5° C., and a solution of 0.8 g of N-[3-(5-t-butoxycarbonyl-2-pyridyl)acryloyl]-4-(4-diphenylmethyl-1-piperazinyl)butylamine (the free base of the product of Example 24) in 3 ml of dichloromethane is slowly added below 20° C. The mixture is stirred at room temperature overnight and concentrated. The residue is dissolved in 10 ml of water and washed with diethyl ether. The aqueous solution is adjusted to pH 5 with aqueous ammonium hydroxide and extracted with three 40-ml portions of ethyl acetate. The combined extracts are dried over magnesium sulfate and the solvent is distilled off. The residue is chromatographed on silica gel with chloroform-methanol (10:1) to give the title compound. m.p. 214°-216° C. (recrystallized from methanol)

reactant | Trifluoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-[3-(5-t-butoxycarbonyl-2-pyridyl)acryloyl]-4-(4-diphenylmethyl-1-piperazinyl)butylamine | 0.8 g | C(C)(C)(C)OC(=O)C=1C=CC(=NC1)C=CC(=O)NCCCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C34H42N4O3
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | N-[3-(5-carboxy-2-pyridyl)acryloyl]-4-(4-diphenylmethyl-1-piperazinyl)butylamine | C(=O)(O)C=1C=CC(=NC1)C=CC(=O)NCCCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C30H34N4O3
